US04946855
To dry benzene (1 ml) was added dropwise dry dimethylformamide (0.264 ml, 3.41 mmol) and thionyl chloride (0.249 ml, 3.41 mmol) in this order under ice-cooling. The mixture was allowed to warm up to room temperature and was stirred for 10 minutes upon which the mixture separated into two phases. The lower phase was added to a suspension of dipotassium tetrazole-5-carboxylate (517.5 mg, 2.72 mmol) in dry acetonitrile (5 ml) under ice-cooling and stirred for 15 minutes. Under the same conditions, a mixed solution of 2-(4-methoxyphenyl)-4-methyl-5-thiazolamine (500 mg, 2.72 mmol) in dry acetonitrile (5 ml) and dry pyridine (2.5 ml) was added dropwise thereto and allowed to react at room temperature for 1 hour. After the reaction mixture was dissolved by addition of water under ice-cooling and acidified with 2N-HCl to pH 2, the deposited solids were filtered with suction, then suspended in 200 ml of water and made alkaline with 1N-KOH to pH 12. The impurities were removed from the alkaline solution by extracting with ethyl acetate, and the aqueous phase was acidified with 2N-HCl to pH 2 under ice-cooling. The produced solids were filtered with suction, washed with water and recrystallized from methanol-water to give 381 mg (yield 53%) of N-(2-(4-methoxyphenyl)-4-methyl-5-thiazolyl)-1H-tetrazole-5-carboxamide as yellowish crystals, m.p. 205°-207° C.

reactant | dimethylformamide | 3.41 mmol, 0.264 ml | CN(C=O)C | C3H7NO
reactant | thionyl chloride | 3.41 mmol, 0.249 ml | S(=O)(Cl)Cl | Cl2OS
reactant | dipotassium tetrazole-5-carboxylate | 2.72 mmol, 517.5 mg | N1N=NN=C1C(=O)[O-].[K+].[K+].N1N=NN=C1C(=O)[O-]
reactant | 2-(4-methoxyphenyl)-4-methyl-5-thiazolamine | 2.72 mmol, 500 mg | COC1=CC=C(C=C1)C=1SC(=C(N1)C)N | C11H12N2OS
reactant | HCl | Cl | ClH
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | pyridine | 2.5 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
solvent | benzene | 1 ml | C1=CC=CC=C1 | C6H6
product | N-(2-(4-methoxyphenyl)-4-methyl-5-thiazolyl)-1H-tetrazole-5-carboxamide | 381 mg, yield 53% | COC1=CC=C(C=C1)C=1SC(=C(N1)C)NC(=O)C1=NN=NN1 | C13H12N6O2S
